US06433175B1
(RS)-1-(7-Chloro-2,3 -dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-propylamine hydrochloride
To a stirred solution of lithium aluminium hydride (1.0 M in THF, 2.7 mL, 2.7 mmol) in added THF (5 mL) under argon was added dropwise a solution of 1-(7-chloro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-nitro-1-propene (0.5 g, 1.8 mmol) in THF (10 mL). The mixture was heated under reflux for 4 h and cooled to 0° C. To the mixture was added dropwise aqueous potassium sodium tartrate solution (50 mL) and the mixture was stirred for 30 min and filtered through kieselguhr. The filtrate was extracted with dichloromethane (3×30 mL). The combined organic extracts were washed (water, brine), dried (sodium sulfate), concentrated in vacuo, treated with ethereal hydrogen chloride (1.0 M, 2 mL, 2 mmol) and concentrated in vacuo. The concentrate was recrystallised (2-propanol) to give the title compound as a white solid (0.23 g, 45%): mp 272-273° C.; Found: C, 57.86; H, 6.37; N, 9.41%. C14H17ClN2.HCl. 0.25H2O requires: C, 58.03; H, 6.39; N, 9.67%.

reactant | lithium aluminium hydride | 2.7 mmol, 1.0 M, 2.7 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(7-chloro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-nitro-1-propene | 1.8 mmol, 0.5 g | ClC1=CC=2C(=C3N(C2C=C1)CCC3)C=C(C)[N+](=O)[O-] | C14H13ClN2O2
reactant | potassium sodium tartrate | 50 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | hydrogen chloride | 2 mmol, 1.0 M, 2 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (RS)-1-(7-Chloro-2,3 -dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-propylamine hydrochloride | 0.23 g, 45% | Cl.ClC1=CC=2C(=C3N(C2C=C1)CCC3)CC(C)N | InChI=1S/C14H17ClN2.ClH/c1-9(16)7-11-12-8-10(15)4-5-14(12)17-6-2-3-13(11)17;/h4-5,8-9H,2-3,6-7,16H2,1H3;1H
